US07582640B2
Synthesis of (1,1-dimethylethyl)3-[(6-chloro-5-methyl-4-pyrimidinyl)amino]-N-[(phenylmethoxy)carbonyl]alaninate
A mixture of 325 mg (2 mmoles) of 4,6-dichloro-5-methyl-pyrimidine (marketed by SPECS), 600 mg (2 mmoles) of (1,1-dimethylethyl) 3-amino-N-[(phenylmethoxy)carbonyl]alaninate (prepared according to J. Med. Chem. (2001), 44(8), 1158-1176) in 3 ml of dimethylformamide and 3 ml of diisopropylethylamine is heated at 120° C. overnight. The reaction medium is concentrated to dryness under vacuum and the residue is taken up in a mixture of water, ethyl acetate and a saturated solution of sodium bicarbonate. The organic phase is separated and the aqueous phase reextracted with ethyl acetate. The combined organic phases are dried over magnesium sulphate then the solvent is evaporated off under vacuum. The residue is chromatographed on silicagel eluting with a gradient of heptane (100%) to a mixture of heptane-ethyl acetate (50-50). 450 mg (Yield=53%) of expected product is obtained in the form of an oil.

reactant | 4,6-dichloro-5-methyl-pyrimidine | 2 mmoles, 325 mg | ClC1=NC=NC(=C1C)Cl | C5H4Cl2N2
reactant | (1,1-dimethylethyl) 3-amino-N-[(phenylmethoxy)carbonyl]alaninate | 2 mmoles, 600 mg | NC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C15H22N2O4
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | diisopropylethylamine | 3 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | (1,1-dimethylethyl)3-[(6-chloro-5-methyl-4-pyrimidinyl)amino]-N-[(phenylmethoxy)carbonyl]alaninate | 450 mg, Yield=53% | CC(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CNC1=NC=NC(=C1C)Cl)=O | C20H25ClN4O4
